Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
==============
___ 11:45PM BLOOD WBC-11.5* RBC-4.82 Hgb-13.9 Hct-40.8 
MCV-85 MCH-28.8 MCHC-34.1 RDW-13.6 RDWSD-42.1 Plt Ct-65*
___ 11:45PM BLOOD Neuts-86.0* Lymphs-5.9* Monos-6.6 
Eos-0.0* Baso-0.9 Im ___ AbsNeut-9.84* AbsLymp-0.68* 
AbsMono-0.76 AbsEos-0.00* AbsBaso-0.10*
___ 07:51AM BLOOD ___ PTT-27.3 ___
___ 11:45PM BLOOD Glucose-111* UreaN-26* Creat-1.2 Na-132* 
K-3.7 Cl-94* HCO3-21* AnGap-17
___ 11:45PM BLOOD ALT-66* AST-58* AlkPhos-105 TotBili-1.9* 
DirBili-0.3 IndBili-1.6
___ 11:45PM BLOOD Lipase-40
___ 07:51AM BLOOD Albumin-3.1* Calcium-8.0* Phos-2.9 Mg-2.3
___ 12:28AM BLOOD Lactate-3.0* Creat-1.1
___ 02:43AM BLOOD Lactate-1.4

MICRO/INFECTIOUS:
================
___ 01:10AM URINE Blood-MOD* Nitrite-POS* Protein-100* 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-4* pH-6.5 Leuks-LG*
___ 01:10AM URINE RBC->182* WBC->182* Bacteri-MANY* 
Yeast-NONE Epi-0
___ 01:10AM URINE WBC Clm-MANY* Mucous-FEW*

URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     8 S
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 08:58AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG
___ 08:00AM BLOOD Lyme Ab-NEG
___ 07:35AM BLOOD CMV IgG-POS* CMV IgM-NEG CMVI-Generally  
EBV IgG-POS* EBNA-POS* EBV IgM-NEG EBVI-Results in
___ 08:58AM BLOOD HIV Ab-NEG
___ 08:58AM BLOOD HCV Ab-NEG
___ 07:35AM BLOOD HCV VL-NOT DETECT
___ 07:35AM BLOOD HIV1 VL-Not Detect

IMAGING:
========
Liver gallbladder ultrasound ___
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the liver is smooth. There is no focal liver mass.  
The main portal vein is patent with hepatopetal flow. There is 
no ascites.
BILE DUCTS: There is no intrahepatic biliary dilation.
CHD: 2 mm
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening.
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, without masses or pancreatic ductal dilation, 
with portions of the pancreatic tail obscured by overlying bowel 
gas.
SPLEEN: Normal echogenicity. Spleen length: 9.5 cm
 KIDNEYS: Limited views of the kidneys show no hydronephrosis.
RETROPERITONEUM: The visualized portions of aorta and IVC are 
within normaL limits.
 IMPRESSION: No biliary ductal dilatation.

CT abdomen pelvis with contrast ___:
1. Hepatomegaly with moderate periportal edema.  Findings are 
nonspecific but can be seen in acute hepatitis, passive hepatic 
congestion, or systemic hypervolemia.
2. Marked, diffuse bladder wall thickening with mucosal 
hyperenhancement, similar to prior, is suggestive of chronic 
cystitis.  Correlation with urinalysis recommended.
3. Mild interstitial pulmonary edema within the visualized lung 
bases.

Chest x-ray ___:
No acute cardiopulmonary abnormality.

DISCHARGE LABS:
==============
___ 08:00AM BLOOD WBC-7.1 RBC-4.33* Hgb-12.6* Hct-36.9* 
MCV-85 MCH-29.1 MCHC-34.1 RDW-14.2 RDWSD-44.5 Plt Ct-83*
___ 08:00AM BLOOD Glucose-97 UreaN-14 Creat-1.0 Na-137 
K-3.5 Cl-101 HCO3-24 AnGap-12
___ 08:00AM BLOOD ALT-40 AST-24 LD(LDH)-193 AlkPhos-69 
TotBili-1.0
___ 08:00AM BLOOD Albumin-3.4* Calcium-8.5 Phos-2.5* Mg-2.___RIEF SUMMARY
=============
___ w/ no PMH who p/w fever, nausea, vomiting, and abdominal 
pain, found to acute complicated cystitis due to E coli, as well 
as thrombocytopenia and transaminitis likely secondary to 
infection.

ACUTE ISSUES
============
# Acute complicated urinary tract infection
Patient with urinary frequency, UA with evidence of infection, 
fevers and night sweats all consistent with acute complicated 
cystitis. Urine cultures grew E. coli, pan sensitive. He was 
treated with IV ceftriaxone (___) then transitioned to 
PO ciprofloxacin (___).

# Mixed acute liver injury
On presentation, ALT 55, AST 58, AP 105, TBili 1.9 consistent 
with mixed cholestatic and hepatocellular injury. Also noted to 
have hepatomegaly and concern for hepatic congestion on CT scan. 
Most likely etiology was secondary to his acute urinary tract 
infection w/ sepsis. Hepatitis panel was negative, HCV VL 
negative. EBV/CMV panels consistent with remote infection. HIV 
Ab and VL negative. History of heavy alcohol use for ___ years 
in his mid-___ but no recent heavy alcohol consumption. LFTs 
and TBili normalized at time of discharge.

# Thrombocytopenia
Acute thrombocytopenia to 50's, uptrending to 80's at time of 
discharge, likely secondary to infection/sepsis. Less likely due 
to liver disease or drug-induced immune thrombocytopenia from 
naproxen. Normal Hgb and WBC. No associated bleeding. 
Haptoglobin normal arguing against hemolytic anemia.
 
Medications on Admission:
NONE
 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Complicated urinary tract infection
- Thrombocytopenia
- Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were having fevers, nausea, and vomiting.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were found to have a urinary tract infection
- You were given IV antibiotics to treat your infection

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please finish your entire course of antibiotics for the next 4 
days, even if your symptoms improve.
- Please see a PCP to follow up on your platelet count and liver 
function tests.
- You should also ask your PCP for ___ referral to see a urologist 
(specialist in the urinary tract) to discuss your infection and 
the thickening seen in your bladder.

We wish you the best! 
 
Sincerely,  

Your ___ Team  
 
Followup Instructions:
___